US07355069B2
b) N-(2,4-difluorobenzyl)-3-(4-hydroxyphenyl)-N-propylpropanamide
3-(4-Hydroxyphenyl)propionic acid (245 mg, 1.474 mmol) in DMF (5 ml) was cooled in an ice-bath. N-(2,4-Difluorobenzyl)-N-propylamine (300.4 mg, 1.622 mmol) was added and then TBTU (521 mg, 1.622 mmol) followed by DIPEA (400 mg, 3.096 mmol). The mixture was stirred at room temperature overnight. Sodium hydrogencarbonate aqueous solution (sat.) was added. The mixture was extracted with ethyl acetate (×2). The extracts were combined and dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 5 g/25 ml) using DCM/heptane (50:50), DCM and then MeOH/DCM (1:99, then 2:98) as eluant gave 336 mg the desired product, yield 68%.

reactant | 3-(4-Hydroxyphenyl)propionic acid | 1.474 mmol, 245 mg | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | N-(2,4-Difluorobenzyl)-N-propylamine | 1.622 mmol, 300.4 mg | FC1=C(CNCCC)C=CC(=C1)F | C10H13F2N
reactant | TBTU | 1.622 mmol, 521 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 3.096 mmol, 400 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(2,4-difluorobenzyl)-3-(4-hydroxyphenyl)-N-propylpropanamide | 336 mg, yield 68% | FC1=C(CN(C(CCC2=CC=C(C=C2)O)=O)CCC)C=CC(=C1)F | C19H21F2NO2
